US05273986
In a manner analogous to Example 7a and 7b, when 2-(1-carboxycyclopentyl)benzoic acid methyl ester is reacted with (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine, there is obtained (E)-2-[1-[[[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenyl]amino]carbonyl]cyclopentyl]benzoic acid methyl ester which is converted to (E)-2-[1-[[[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenyl]amino]carbonyl]cyclopentyl]benzoic acid.

reactant | 2-(1-carboxycyclopentyl)benzoic acid methyl ester | COC(C1=C(C=CC=C1)C1(CCCC1)C(=O)O)=O | C14H16O4
reactant | (E)-3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]benzeneamine | C1(CCC1)C=1N=C(SC1)/C=C/C=1C=C(C=CC1)N | C15H16N2S
product | (E)-2-[1-[[[3-[2-[4-(cyclobutyl)-2-thiazolyl]ethenyl]phenyl]amino]carbonyl]cyclopentyl]benzoic acid methyl ester | COC(C1=C(C=CC=C1)C1(CCCC1)C(=O)NC1=CC(=CC=C1)\C=C\C=1SC=C(N1)C1CCC1)=O | C29H30N2O3S
